US06649600B1
8-(4-Hydroxy-2,6-dioxa-tricyclo[3.3.1.03,7]non-1-yl)-1,3-dipropyl-3,7-dihydro-purine-2,6-dione
To a solution of 8-(4-hydroxy-2,6-dioxa-tricyclo[3.3.1.03,7]non-1-yl)-1,3-dipropyl-7-(tetrahydro-pyran-2-yl)-3,7-dihydro-purine-2,6-dione (0.065 mmol, 0.030 g) in 1:1 THF/MeOH (6 ml) was added 1N HCl (3 drops). The reaction was stirred at room temperature 4 h and then concentrated to dryness. The residue was purified by reverse phase HPLC, providing product (0.0094 g, 38%). 1H NMR (400 MHz, d6-DMSO): 0.80-0.89 (m, 6H), 1.48-1.56 (m, 2H), 1.60-1.70 (m, 2H), 1.9-2.09 (m, 2H), 2.2-2.25 (m, 1H), 3.78-3.82 (m, 2H), 3.89-3.91 (m, 2H), 3.99 (s, 1H), 4.21 (br s, 1H), 4.51 (br s, 1H), 4.80 (m, 1H).

reactant | 8-(4-hydroxy-2,6-dioxa-tricyclo[3.3.1.03,7]non-1-yl)-1,3-dipropyl-7-(tetrahydro-pyran-2-yl)-3,7-dihydro-purine-2,6-dione | 0.065 mmol, 0.030 g | OC1C2OC3(CC2OC1C3)C3=NC=1N(C(N(C(C1N3C3OCCCC3)=O)CCC)=O)CCC | C23H32N4O6
catalyst | HCl | 1N, 3 drops | Cl | ClH
solvent | THF MeOH | 6 ml | C1CCOC1.CO
product | 8-(4-Hydroxy-2,6-dioxa-tricyclo[3.3.1.03,7]non-1-yl)-1,3-dipropyl-3,7-dihydro-purine-2,6-dione | 0.0094 g, 38% | OC1C2OC3(CC2OC1C3)C3=NC=1N(C(N(C(C1N3)=O)CCC)=O)CCC | C18H24N4O5
